US04670566
3-amino-4-chlorobiphenyl.
A mixture of 62.0 g (0.266 mole) of 4-chloro-3-nitro-biphenyl, 400 ml of concentrated hydrochloric acid and 100 ml of absolute ethanol was heated at reflux while 93 g (0.785 mole) of 20 mesh granular tin metal was added in portions over a 1 hr period. Heating was continued for 2 hr. The white slurry which resulted was cooled and filtered. The white precipitate (filter cake) was partitioned between dilute sodium hydroxide and methylene chloride. The methylene chloride layer was dried over magnesium sulfate and concentrated under reduced pressure to give a solid residue. Recrystallization of the residue from cyclohexane gave 47.5 g (88%) of the title compound as white powder, m.p. 91.0°-92.5° C.

reactant | 4-chloro-3-nitro-biphenyl | 0.266 mole, 62.0 g | ClC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C12H8ClNO2
reactant | hydrochloric acid | 400 ml | Cl | ClH
reactant | tin | [Sn] | Sn
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-amino-4-chlorobiphenyl | 47.5 g, 88% | NC=1C=C(C=CC1Cl)C1=CC=CC=C1 | C12H10ClN
